US07902367B2
Step 90c) Methyl 3-[2-[N-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methyl]carbamoyl]morpholin-4-yl]benzoate
Using N-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methyl]morpholine-2-carboxamide (29.5 mg, 0.0838 mmol) and 3-(methoxycarbonyl)phenylboric acid (30.2 mg, 0.168 mmol), the same procedure was followed as in Example 2 to give 28.9 mg (71%) of the desired compound as a colorless oil.

reactant | N-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methyl]morpholine-2-carboxamide | 0.0838 mmol, 29.5 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)CNC(=O)C1CNCCO1 | C16H18ClN3O2S
reactant | 3-(methoxycarbonyl)phenylboric acid | 0.168 mmol, 30.2 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
product | Methyl 3-[2-[N-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methyl]carbamoyl]morpholin-4-yl]benzoate | 28.9 mg, 71% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)CNC(=O)C1CN(CCO1)C=1C=C(C(=O)OC)C=CC1 | C24H24ClN3O4S
